Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abnormal uterine bleeding
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy, 
extensive lysis of adhesions, cystoscopy 

 
History of Present Illness:
From consultation with Dr. ___ on ___:

___ G4P4 presents for pre-op visit given prolonged history of 
abnormal uterine bleeding. History and work-up outlined below:
       
___ Pt c/o daily light vaginal spotting, US revealing 
blood in uterus and EM cells on pap. Ebx unable to be performed 
d/t stenotic cervix.

___ Endometrial biopsy done, Inactive endometrium
with stromal breakdown. Fragments of benign endocervical
epithelium.

___ Reports experiencing menses twice monthly w/ 
intermenstrual spotting x4 months, though prior to the last 4 
months she had daily intramenstrual spotting. Reported 
occasional poistcoital x7month. 

___: 1. Difficult visualization of the endometrium 
secondary to the position of the uterus. However, where seen, 
the endometrium is unremarkable and not thickened.

___ EMB obtained: - Fragments of benign endocervix with 
squamous metaplasia; No endometrial tissue present.

___ HSC, D&C and Novasure ablation for metomenorrhagia

___ pathology 1. Endometrium, curettage: Proliferative 
endometrium. Fragments suggestive of endometrial polyp.

___ HSC, D&C and Novasure, however the second surgery was 
unsuccessful, per note "Intra-operative findings were notable 
for cavity width of 2 cm which is less than the required wide in 
order to complete ablation. Ablation was aborted and 
hysteroscopic resection of endometrium was performed.")

___ pathology Fragments of benign endometrium. Fragments 
of smooth muscle suggestive of leiomyoma.

___ to ___ She was treated with lupron therapy

___ lupron d/c'd. She was seen for vulvar discomfort, 
dyspareunia and decreased libido, but no complaints of abnormal 
bleeding were described during this time.

 ___ had normal exam annual exam. Again, reported to this 
provider frequent spotting (most days of the month. Negative 
GC/CT. Negative rapid trich

___ E2/FSH/TSH/PRL all wnl. HCG neg

___ Ultrasound: retroverted uterus, limited by 
retroverted postion and body habitus. Endometrial lining 6mm, 
does not appear thickened. "Normal pelvic US"

___ Discussed case with ___ suggested 
sonohysterogram.

___ SHG limited by body habitus and retroflexed uterus, 
as well as by cervical stenosis. No uterine or endometrial 
abnormalities were noted in limited views that were obtained. 

___ continued abnl spotting and vaginal odor. GC/CT neg. 
BV neg.

Today, she states she continues to have bothersome spotting most 
days of the month in addition to continued vaginal odor and 
desires definitive management. She reports increased post-coital 
spotting as well as dyspareunia. She was seen in ___ clinic 
and diagnosed with desquamative inflammatory vaginitis, 
irritative bladder symptoms and pelvic floor dysfunction. Pelvic 
floor ___ was recommended but she has not yet been. 

 
Past Medical History:
Medical History:  
Cervical CA scn: ___ NILM, HPV neg; next ___. 
Breast CA scn: Mammogram ___ BIRADS 2 (annual mammogram) 
Pre-diabetes - A1c 6.4% ___ hx gestational diabetes. , 
Anemia - iron deficiency, recurrent. Normal EGD and colonoscopy 
___, Gastritis (resolved), 
R adrenal nodule: per ___ CT lipoma vs. myelolipoma, no 
suspcious features, 
Stage I hypertension: improved without medications after gastric 
bypass 
Chronic back pain - MRI ___ showed moderate L5/S1 
spondylosis
Morbid obesity - now s/p gastric bypass and lostmweight, 
Atypical chest pain: resolved 
Depression: started sertraline ___
Menorrhagia: benign endometrial biopsy in ___ and ___ and 
Novasure procedure

Gyn History:  Pap History ___ NILM, HPV neg; ___ NILM;
___ NILM, HPV neg; ___ NILM, HPV neg; ___ NILM;
___ NILM;.  Mammogram History ___ BIRADS 2 (Dense Breast
tissue; rec annual MMG).  Sexually Transmitted Diseases (STDs)
denies.  Fibroids denies.  Periods : previously regular until
menopause in ___, no PMB, no history of abnormal PAP smears or
STIs.  Sexual activity currently sexually active with one male
partner.  ___ pap smear denies.  Birth control hx of OCP 
use
x ___.   
 
OB History:  Total pregnancies  Total Preg.  4 all uncomplicated
per patient. C section(s)  4.   
 
Surgical History: 
SPARC sling procedure for urinary incontinence, 
___ ___ 
Right hand surgery ___
Cesearan section x 4 w BTL
Gastric bypass - ___ ___
Revision of sling for mesh erosion ___ 
HSC, D&C, Novasure endometrial ablation ___, 
Hysteroscopy, dilation and curettage, attempted Novasure 
ablation, hysteroscopic endometrial resection ___ 
Debridement and revision of midureteral sling ___.  

Allergies: none
 
Social History:
___
Family History:
Cancer - type ___
Diabetes 
 
Physical Exam:
Vitals: stable and within normal limits
General: no acute distress, comfortable
CV: regular rate and rhythm 
Lungs: Clear to auscultation bilaterally 
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, dressing clean/dry/intact
GU: pad with minimal spotting
Extremities: no edema, no tenderness to palpation 
 
Pertinent Results:
___ 04:30AM BLOOD WBC-9.0 RBC-3.78* Hgb-10.7* Hct-32.4* 
MCV-86 MCH-28.3 MCHC-33.0 RDW-13.7 RDWSD-43.0 Plt ___
 
Brief Hospital Course:
On , Ms. ___ was admitted to the gynecology 
service after undergoing total laparoscopic hysterectomy, 
bilateral salpingectomy, extensive lysis of adhesions, 
cystoscopy. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with hydromorphone.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to oral 
acetaminophen, ibuprofen, and oxycodone.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Lisinopril 10 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every ___ hours 
Disp #*60 Tablet Refills:*1 
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *ibuprofen 600 mg 1 (One) tablet(s) by mouth every six hours 
Disp #*60 Tablet Refills:*1 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*30 Tablet Refills:*0 
4.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* You have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___